US07241769B2
Isopropyl 2-amino-benzoate
1.0 g (7.3 mmol) anthranilic acid are dissolved in 5 ml propan-2-ol, combined with 795 μl (10.9 mmol) thionyl chloride and refluxed for 3 days. Then thionyl chloride is eliminated in vacuo, the residue is taken up in 50 ml dist. water and extracted three times with 30 ml of ethyl acetate. The organic phase is washed with 20 ml of a saturated aqueous NaHCO3 solution, dried with MgSO4 and the solvent is eliminated in vacuo.

reactant | anthranilic acid | 7.3 mmol, 1.0 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | thionyl chloride | 10.9 mmol, 795 μl | S(=O)(Cl)Cl | Cl2OS
reactant | propan-2-ol | 5 ml | CC(C)O | C3H8O
product | Isopropyl 2-amino-benzoate | NC1=C(C(=O)OC(C)C)C=CC=C1 | C10H13NO2
